US05358951
Cis(+/-)-2-Butyl-6-(hexahydro-6,6-dimethylpyrrolo[1,2-b]isoxazol-2-yl)-3-[[2'-[1-(triphenylmethyl]-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone
To a solution of 0.500 g of 2-Butyl-6-ethenyl-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone in 25 ml of toluene is added 0.161 g of 5,5-dimethyl-1-pyrroline N-oxide and the reaction mixture heated at reflux for 6 hours. The reaction mixture is cooled and concentrated in vacuo to a residue which is purified by chromatography on silica gel by elution with 2:1 ethyl acetate-hexanes to give 0.332 g of the desired product. FAB mass spec 818 (M+H).

reactant | 2-Butyl-6-ethenyl-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 0.500 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C | C47H40N6O
reactant | 5,5-dimethyl-1-pyrroline N-oxide | 0.161 g | CC1(CCC=[N+]1[O-])C | C6H11NO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | Cis(+/-)-2-Butyl-6-(hexahydro-6,6-dimethylpyrrolo[1,2-b]isoxazol-2-yl)-3-[[2'-[1-(triphenylmethyl]-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 0.332 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)[C@@H]1C[C@@H]2N(O1)C(CC2)(C)C | C53H51N7O2
